US06180627B2
2-[3-({[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid
The title compound was prepared by a similar method to preparation 44 from tert-butyl (2R)-2-[((4-[2-(benzyloxy)-2-oxoethyl]-6-chloro-5-methyl-3-oxo-3,4-dihydro-2-pyrazinyl}amino)methyl]-1-pyrrolidinecarboxylate [see preparation 53] and palladium hydroxide to afford the product as a white foam, (68%).

reactant | tert-butyl (2R)-2-[((4-[2-(benzyloxy)-2-oxoethyl]-6-chloro-5-methyl-3-oxo-3,4-dihydro-2-pyrazinyl}amino)methyl]-1-pyrrolidinecarboxylate | C(C1=CC=CC=C1)OC(CN1C(C(=NC(=C1C)Cl)NC[C@@H]1N(CCC1)C(=O)OC(C)(C)C)=O)=O | C24H31ClN4O5
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | 2-[3-({[(2R)-1-(tert-butoxycarbonyl)pyrrolidinyl]methyl}amino)-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | C(C)(C)(C)OC(=O)N1[C@H](CCC1)CNC=1C(N(C(=CN1)C)CC(=O)O)=O | C17H26N4O5
